US06150377
A solution of 6-(4-chloro-benzoyl)-1-cyclopropylmethyl4-(3-iodo-phenyl)-1H-quinolin-2-one (4.0 g, 7.41 mmol) in DMF/diethylamine (1:1, 80 mL) was treated with palladium (II) bis(triphenyl)phosphine chloride (0.26 9, 0.37 mmol), trimethylsilylacetylene (1.09 g, 11.1 mmol), and copper (1) iodide (0.21 g, 1.09 mmol). The reaction mixture was stirred at room temperature for 3 hours, concentrated in vacuo, poured into H2O (450 mL), and filtered to give a crude brown foam. Purification by flash column chromatography (silica, ether:petroleum ether 1:1) gave 6-(4-Chlorobenzoyi)-1-cyclopropylmethyl4-(3-trimethylsilanylethynyl-phenyl)-1 H-quinolin-2-one (3.47 g, 92%) as a yellow solid.

reactant | 6-(4-chloro-benzoyl)-1-cyclopropylmethyl4-(3-iodo-phenyl)-1H-quinolin-2-one | 7.41 mmol, 4.0 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)CC2CC2)=O)C2=CC(=CC=C2)I)C=C1 | C26H19ClINO2
reactant | trimethylsilylacetylene | 11.1 mmol, 1.09 g | C[Si](C)(C)C#C | C5H10Si
solvent | DMF diethylamine | 80 mL | CN(C)C=O.C(C)NCC
catalyst | copper (1) iodide | 1.09 mmol, 0.21 g | [Cu]I
product | 6-(4-Chlorobenzoyi)-1-cyclopropylmethyl4-(3-trimethylsilanylethynyl-phenyl)-1 H-quinolin-2-one | 3.47 g, 92% | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)CC2CC2)=O)C2=CC(=CC=C2)C#C[Si](C)(C)C)C=C1 | C31H28ClNO2Si
